US06462038B1
This compound was prepared according to General Method 7 (EXAMPLE 5) from 2,3-dihydro-7-isopropoxy-9-(trifluoromethyl)-1H-[1,4]thiazino[3,2-g]quinoline (11 mg, 0.034 mmol), trifluoroacetaldehyde ethyl hemiacetal (49 mg, 0.34 mmol) and NaBH3CN (14 mg, 0.22 mmol) in 0.7 mL TFA to afford 7.8 mg (56%) of 2,3-dihydro-7-isopropoxy-1-(2,2,2-trifluoroethyl)-9-(trifluoromethyl)-1H-[1,4]thiazino[3,2-g]quinoline, a yellow oil, after flash chromatography (9:1 hexanes:EtOAc). Data for 2,3-dihydro-7-isopropoxy-1-(2,2,2-trifluoroethyl)-9-(trifluoromethyl)-1H-[1,4]thiazino[3,2-g]quinoline: 1H NMR (400 MHz, CDCl3) δ 7.62 (s, 1H), 7.21 (broad s, 1H), 7.03 (s, 1H), 5.46 (hept, 1H, J=6.1), 3.97 (q, 2H, J=8.8), 3.77-3.83 (m, 2H), 3.08-3.14 (m, 2H), 1.38 (d, 6H, J=6.1).

reactant | 2,3-dihydro-7-isopropoxy-9-(trifluoromethyl)-1H-[1,4]thiazino[3,2-g]quinoline | 0.034 mmol, 11 mg | C(C)(C)OC1=NC=2C=C3C(=CC2C(=C1)C(F)(F)F)NCCS3 | C15H15F3N2OS
reactant | trifluoroacetaldehyde ethyl hemiacetal | 0.34 mmol, 49 mg | C(C)OC(C(F)(F)F)O | C4H7F3O2
reactant | NaBH3CN | 0.22 mmol, 14 mg | [BH3-]C#N.[Na+]
solvent | TFA | 0.7 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2,3-dihydro-7-isopropoxy-1-(2,2,2-trifluoroethyl)-9-(trifluoromethyl)-1H-[1,4]thiazino[3,2-g]quinoline | 7.8 mg, 56% | C(C)(C)OC1=NC=2C=C3C(=CC2C(=C1)C(F)(F)F)N(CCS3)CC(F)(F)F | C17H16F6N2OS
